US08735579B2
3-benzyloxy-4-chloro-benzoic acid
2.67 ml benzylbromide are added dropwise to 1.73 g 3-hydroxy-4-chloro-benzoic acid and 3.04 g potassium carbonate in 10 ml N,N-dimethylformamide, and the reaction mixture is stirred overnight at ambient temperature. Then the reaction mixture is mixed with water and extracted with ethyl acetate. The combined organic phases are dried on magnesium sulphate and evaporated down. The flask residue is taken up in 5 ml of methanol, combined with 3 ml of 10 M aqueous potassium hydroxide solution and stirred for 4 h at 50° C. gerũhrt. The reddish solution is diluted with water and acidified with 3 N aqueous hydrochloric acid. The precipitate formed is suction filtered, washed with water and dried.

reactant | benzylbromide | 2.67 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-hydroxy-4-chloro-benzoic acid | 1.73 g | OC=1C=C(C(=O)O)C=CC1Cl | C7H5ClO3
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-benzyloxy-4-chloro-benzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1Cl | C14H11ClO3
